US08486952B2
2,4-dichloro-8-(4-chlorophenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine (Preparation K) (500 mg, 1.584 mmol) and Dimethylamine (2.0 M in THF) (1.188 mL, 2.377 mmol) were combined an purified as per Preparation Ha to give 2-chloro-8-(4-chlorophenyl)-N,N-dimethyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine (400 mg, 1.234 mmol, 78% yield) as a white solid. LC-MS (M+H)+=324.0. 1H NMR (500 MHz, CDCl3) δ ppm 7.20-7.31 (2H, m), 7.04-7.15 (2H, m), 4.70-4.89 (2H, m), 4.17 (1H, dd, J=11.60, 5.49 Hz), 4.05 (1H, t, J=5.49 Hz), 3.87 (1H, dd, J=11.60, 5.49 Hz), 3.05-3.19 (6H, m).

reactant | 2,4-dichloro-8-(4-chlorophenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine | 1.584 mmol, 500 mg | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=C(C=C2)Cl)Cl | C13H9Cl3N2O
reactant | Dimethylamine | 2.377 mmol, 2.0 M, 1.188 mL | CNC | C2H7N
product | 2-chloro-8-(4-chlorophenyl)-N,N-dimethyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine | 1.234 mmol, 400 mg, 78% yield | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=C(C=C2)Cl)N(C)C | C15H15Cl2N3O
